US08247610B2
2-{5-[(4-Chloro-phenyl)-(3-methyl-butyryl)-amino]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid
To a solution of 2-[5-(4-chloro-phenylamino)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid (51.1 mg, 0.11 mmol), sodium acetate 40 mg, 1.1 mmol) and toluene (0.5 mL) was added isovaleryl chloride (60 μL, 0.55 mmol) and the resulting mixture was stirred at RT for 48 hr. The mixture was treated with water (10 mL) and extracted with EtOAc (2×25 mL). The combined organic layers were dried with MgSO4, filtered and the solvent was concentrated in vacuo and the residue was purified by flash chromatography on silica gel (gradient 0% to 30% EtOAc/heptane) to afford 16.3 mg (27%) of the title compound as a solid. 1H-NMR (CDCl3; 300 MHz): δ 7.6-7.7 (m, 4H), 6.98-7.45 (m, 7H), 3.7 (m, 1H), 2.2 (m, 2H), 2.0 (m, 1H), 1.7 (m, 1H), 1.5 (m, 1H), 1.25 (bs, 1H), 0.85-1.0 (m, 12H). Mass spectrum (ESI, m/z): Calcd. for C30H31ClF3NO3, 546.03 (M+H), found 548.26, 546.29.

reactant | 2-[5-(4-chloro-phenylamino)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid | 0.11 mmol, 51.1 mg | ClC1=CC=C(C=C1)NC=1C=C(C=C(C1)C1=CC=C(C=C1)C(F)(F)F)C(C(=O)O)CC(C)C | C25H23ClF3NO2
reactant | sodium acetate | 1.1 mmol, 40 mg | C(C)(=O)[O-].[Na+]
reactant | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
reactant | isovaleryl chloride | 0.55 mmol, 60 μL | C(CC(C)C)(=O)Cl | C5H9ClO
solvent | water | 10 mL | O | H2O
product | 2-{5-[(4-Chloro-phenyl)-(3-methyl-butyryl)-amino]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid | 16.3 mg, 27% | ClC1=CC=C(C=C1)N(C=1C=C(C=C(C1)C1=CC=C(C=C1)C(F)(F)F)C(C(=O)O)CC(C)C)C(CC(C)C)=O | C30H31ClF3NO3
